Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Iodine
 
Attending: ___.
 
Chief Complaint:
Flank pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ male past medical history significant for ESRD 
secondary to polycystic kidney disease status post failed liver 
transplant in ___ currently on hemodialysis, hypertension, hep 
C, endocarditis, carotid stenosis presenting to the emergency 
department with left flank pain since the ___ that is constant 
with no known ameliorating or exacerbating factors and radiates 
down to the left testicle. Patient was seen and had a 2 mm 
kidney stone in the left kidney that has now resolved. Upon exam 
at ___, patient was found to have 
possible right sided pyelo-with bacteriuria on CT. Patient was 
sent here for specialty evaluation as he receives his renal 
transplant care here. Patient received ceftriaxone prior to 
arrival

In the ED:

Initial vital signs were notable for:
T98.8, HR98, BP161/90, RR20, 95% RA, Pain ___

Exam notable for:
GA: Uncomfortable
HEENT: No scleral icterus
Cardiovascular: Normal S1, S2, regular rate and rhythm, no 
murmurs/rubs/gallops, 2+ peripheral pulses bilaterally
Pulmonary: Clear to auscultation bilaterally
Abdominal: Soft, nontender, nondistended, no masses
GU: Normal testicles without signs of tenderness, edema
Extremities: No lower leg edema
Integumentary: No rashes noted

Labs were notable for:

5.1 > 9.1/28.6 < 230

133 88 36   
---------- 104
5.0 26 5.3

Ca 9.6 Mg 2.0 P 4.9

Tacro 2.0

Studies performed include:
Scrotal US:
Findings equivocal for epididymitis.

Renal US:
1. No hydronephrosis.
2. Normal intrarenal resistive indices, slightly decreased from
prior.
3. Main renal artery and main renal vein are patent with
appropriate
waveforms.

CT A/P performed at ___

Patient was given: Dilaudid, Ceftriaxone x1, Doxy

Consults: Transplant Medicine

Vitals on transfer: T97.6, BP103/60,HR75, RR18, 93%RA

Upon arrival to the floor, pt complained of pain ___ kidney 
stones and epididymitis. The pain is sharp and throbbing and 
starts in his L back, radiating to his groin and down his leg. 
He also says his hands are cramping because of the fluid 
overload visible in both his arms/legs. He received dialysis 
today and got ___ lbs of fluids off. Denies symptoms of chest 
pain, N/V/F/C. 
 
Past Medical History:
ESRD due to polycystic kidney disease, on HD ___ to ___ s/p
SCD renal transplant ___
GERD
Hepatitis C, treated with interferon monotherapy then Harvoni
post-transplant
Hypertension 
Hyperparathyroidism status post subtotal parathyroidectomy 
revision ___, thyroid lobectomy. 
Gout. 
Carotid stenosis. 
Restless legs syndrome. 
Depression. 
 
Social History:
___
Family History:
Father: ___
Mother: No medical conditions
Sister: CAD
Son: ___
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
======================
VITALS: T97.6, BP103/60,HR75, RR18, 93%RA
GENERAL: Alert and interactive. Moderately uncomfortable.
HEENT: NCAT. EOMI. Sclera anicteric and without injection. MMM.
NECK: No gross abnormalities
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No 
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or 
rales. No increased work of breathing.
BACK: CVA tenderness on L.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep 
palpation in all four quadrants. No organomegaly.
EXTREMITIES: No clubbing, cyanosis. Pitting edema 1+ ___ b/l. 
Mild edema b/l in the arms as well. Pulses DP/Radial 2+ 
bilaterally.
SKIN: Warm. Cap refill <2s. No rash.
NEUROLOGIC: Normal sensation. AOx3.

DISCHARGE PHYSICAL EXAM:
========================
VITALS: Temp: 98.5 PO BP: 142/80 HR: 70 RR: 20 O2 sat: 100% RA 
GENERAL: Alert and interactive. NAD. Lying comfortably in bed. 
HEENT: NCAT. Sclera anicteric and without injection. MMM.
NECK: Supple. 
CARDIAC: RRR with normal S1 and S2. II/VI systolic murmur heard 
throughout. No rubs or gallops. 
LUNGS: Normal respiratory effort. CTAB over anterior chest 
without wheezes, rales or rhonchi.  
ABDOMEN: Soft, non-tender, non-distended. Normoactive BS. No 
guarding or masses.  
EXTREMITIES: Warm, well perfused. No ___ edema or erythema. Mild 
TTP over left buttocks and greater trochanter. 
SKIN: Warm, dry. No rashes. 
NEUROLOGIC: Alert and interactive. CN II-XII grossly intact. 
Moves all extremities. 
 
Pertinent Results:
ADMISSION LABS:
==============
___ 11:20PM BLOOD WBC-5.1 RBC-3.22* Hgb-9.1* Hct-28.6* 
MCV-89 MCH-28.3 MCHC-31.8* RDW-16.5* RDWSD-48.5* Plt ___
___ 11:20PM BLOOD Neuts-93.3* Lymphs-4.9* Monos-1.2* 
Eos-0.0* Baso-0.0 Im ___ AbsNeut-4.72 AbsLymp-0.25* 
AbsMono-0.06* AbsEos-0.00* AbsBaso-0.00*
___ 11:20PM BLOOD Glucose-112* UreaN-29* Creat-4.5* Na-133* 
K-4.5 Cl-89* HCO3-28 AnGap-16
___ 11:20PM BLOOD ALT-<5 AST-18 CK(CPK)-300 AlkPhos-81 
TotBili-0.4
___ 11:20PM BLOOD Lipase-13
___ 11:50PM BLOOD Lactate-2.2*

PERTINENT LABS/MICRO:
====================
___ 11:20PM BLOOD Lipase-13

___ 11:20PM BLOOD cTropnT-0.08*
___ 04:20AM BLOOD CK-MB-12* cTropnT-0.27*
___ 07:04PM BLOOD CK-MB-6 cTropnT-0.29*
___ 01:00AM BLOOD CK-MB-5 cTropnT-0.36*
___ 04:35AM BLOOD CK-MB-3 cTropnT-0.42*
___ 09:34AM BLOOD CK-MB-2 cTropnT-0.45*

___ 07:50AM BLOOD HBsAg-NEG HBsAb-NEG HBcAb-NEG
___ 07:50AM BLOOD HCV Ab-POS*
___ 07:50AM BLOOD HCV VL-NOT DETECT

___ 11:50PM BLOOD Lactate-2.2*
___ 07:31PM BLOOD Lactate-1.7

___ 12:43PM URINE Color-Yellow Appear-Hazy* Sp ___
___ 12:43PM URINE Blood-MOD* Nitrite-NEG Protein->600* 
Glucose-100* Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 12:43PM URINE RBC-2 WBC-7* Bacteri-FEW* Yeast-NONE 
Epi-<1 TransE-<1
___ 12:43PM URINE CastGr-3* CastHy-4*

___ 12:43PM URINE CT-NEG NG-NEG
___ Blood culture: Negative 
___ Urine culture: Negative

DISCHARGE LABS:
==============
___ 04:51AM BLOOD WBC-4.4 RBC-3.56* Hgb-9.8* Hct-32.2* 
MCV-90 MCH-27.5 MCHC-30.4* RDW-17.2* RDWSD-56.8* Plt ___
___ 04:51AM BLOOD Glucose-98 UreaN-25* Creat-4.7* Na-131* 
K-4.8 Cl-88* HCO3-27 AnGap-16

PERTINENT IMAGING:
=================
___ Scrotal Ultrasound:
Findings equivocal for bilateral epididymitis.

___ Renal Transplant Ultrasound:
1. No hydronephrosis.
2. Normal intrarenal resistive indices, slightly decreased from 
prior.
3. Main renal artery and main renal vein are patent with 
appropriate
waveforms.
4. Unchanged 4 mm right lower pole renal lesion, possibly a 
small
angiomyolipoma.

___ Left Hip Xray:
No acute fracture.  There is mild degenerative changes of the 
hip, and partial ankylosis of the SI joints and degenerative 
discopathy and facet OA at L5/S1, that could potentially 
contribute to patient's symptoms.  If there remains high 
clinical suspicion for occult injury, further evaluation with CT 
is an option.

___ Second Opinon OSH CT Abd/pelvis:
1. No hydronephrosis or nephrolithiasis of the right lower 
quadrant transplant kidney.
2. Improvement in perinephric stranding compared to prior study 
from ___.

___ CXR:
There is moderate pulmonary edema and layering bilateral pleural 
effusions. No pneumothorax.  The size of the cardiac silhouette 
is within normal limits.

___ TTE:
The left atrial volume index is mildly increased. The right 
atrium is mildly enlarged. There is no evidence for an atrial 
septal defect by 2D/color Doppler. There is mild symmetric left 
ventricular hypertrophy with a normal cavity size. There is 
normal regional and global left ventricular systolic function. 
The visually estimated left ventricular ejection fraction is 
65%. There is no resting left ventricular outflow tract 
gradient. No ventricular septal defect is seen. Tissue Doppler 
suggests an increased left ventricular filling pressure (PCWP 
greater than 18mmHg). Mildly dilated right ventricular cavity 
with normal free wall motion. The aortic sinus diameter is 
normal for gender with normal ascending aorta diameter for 
gender. The aortic arch diameter is normal. There is no evidence 
for an aortic arch coarctation. The aortic valve leaflets are 
moderately thickened. There is mild aortic valve stenosis (valve 
area 1.5-1.9 cm2). There is trace aortic regurgitation. The 
mitral valve leaflets are mildly thickened with no mitral valve 
prolapse. There is an eccentric, inferolateral directed jet of 
moderate [2+] mitral regurgitation. Due to acoustic shadowing, 
the severity of mitral regurgitation could be UNDERestimated. 
Due to the Coanda effect, the severity of mitral regurgitation 
could be UNDERestimated. The tricuspid valve leaflets appear 
structurally normal. There is mild [1+] tricuspid regurgitation. 
There is moderate pulmonary artery systolic hypertension. There 
is a trivial pericardial effusion.

IMPRESSION: Mild symmetric left ventricular hypertrophy with 
preserved biventricular systolic function. Increased left 
ventricular filling pressure. Mild aortic stenosis. Moderate 
mitral regurgitation. Mild tricuspid regurgitation. Moderate 
pulmonary hypertension.

___ MRI Left Hip w/o Contrast:
1. Mild degenerative changes of the left hip.  No findings to 
suggest 
infection or avascular necrosis. 
2. Chronic appearing tear of the anterosuperior aspect of the 
left acetabular labrum. 
3. Degenerative disc disease in the lower lumbar spine better 
evaluated on the dedicated lumbar spine MRI performed on the 
same date. 

___ MRI L Spine w/o Contrast:
1. L5-S1 loss of disc height, disc irregularity, endplate 
irregularities, and L5 loss of height are again demonstrated, 
suggesting either chronic 
spondyloarthropathy secondary to end-stage renal disease, versus 
sequela of prior discitis/osteomyelitis.  Also unchanged mild 
retrolisthesis and 
prominent epidural fat at this level.  Unchanged mild narrowing 
of the thecal sac and severe bilateral neural foraminal 
narrowing at this level. 
2. Mild spinal canal narrowing at L2-L3 and L3-L4 has progressed 
since ___. Moderate L3-L4 neural foraminal narrowing has 
slightly progressed on the right but is not significantly 
changed on the left. 
3. At L4-L5, moderate right and severe left neural foraminal 
narrowing, as 
well as mild, left greater than right subarticular zone 
narrowing, are not 
significantly changed. 
 
Brief Hospital Course:
Mr. ___ is a ___ y/o male with a history of ESRD ___ PCKD s/p 
deceased donor renal transplant (___) c/b chronic allograft 
dysfunction, now back on HD since ___, HCV s/p Harvoni, and 
HTN who presented with left flank/hip/testicular pain. 
Infectious work up was unremarkable. MRI spine was notable for 
degenerative disc disease, likely causing radicular pain. 
Chronic pain service and orthopedic surgery were consulted and 
recommended ongoing pain management. 

ACUTE ISSUES:
=============
#Left flank/hip/back pain, severe uncontrolled pain
#Neuropathic pain
The patient presented with ___ weeks of left flank pain that 
then moved into his left hip, thigh, groin and left testicle. 
Initial evaluation was notable for CVA tenderness and left 
testicular tenderness concerning for UTI/nephrolithiasis vs 
epididymitis. CT abd/pelvis showed an atrophic kidney without 
nephrolithiasis or pyelonephritis and testicular ultrasound was 
equivocal for epidimyitis. He was initially started on broad 
spectrum antibiotics, which were discontinued after urine 
culture, GC & chlamydia returned negative. Given persistent 
pain, MRI L-spine and pelvis were done, demonstrating L5-S1 
changes c/w chronic spondyloarthropathy ___ ESRD vs sequela of 
prior discitis, as well as severe left-sided L4-L5 neural 
foraminal narrowing. The L4-L5 was felt to be the etiology of 
his pain given the correlating location. Chronic pain service 
and orthopedic surgery were consulted and provided recommends 
for pain management. He was continued on oxycodone, 
amitriptyline and started on tizanidine as well as lyrica with 
improvement in his pain. He will follow up in the ___ spine 
clinic for further management. 

#ESRD ___ PCKD s/p renal transplant c/b rejection now on HD
Presented with moderate volume overload, particularly noted to 
have bilateral pleural effusions on CXR. He underwent multiple 
daily sessions of dialysis with improvement and then was 
transitioned to his normal regimen. He had significant weight 
gain between sessions and required tighter fluid restriction, 
which should be continued as an outpatient. Additionally, his 
home prednisone and tacrolimus were continued.

#Acute hypoxic respiratory failure
#Acute pulmonary edema
Patient noted to have rapidly worsening hypoxia one evening 
during his hospitalization briefly requiring a non-rebreather. 
Repeat CXR showed significant pulmonary edema with bilateral 
effusions. He was started on a nitroglycerin gtt and underwent 
urgent bedside dialysis overnight with improvement in his 
clinical status. He was rapidly weaned to room air and remained 
stable for the remainder of the hospitalization. 

#NSTEMI
Troponin 0.08 on admission and continued to rise to 0.45 in the 
setting of fluid overload and acute hypoxic respiratory failure. 
EKG showed borderline submillimeter ST depressions in I, V5-V6 
(different from baseline), which was stable/improving on serial 
EKGs. He denied having any chest pain during this time. 
Cardiology was consulted and felt the presentation was 
consistent with type II NSTEMI due to fluid overload. Follow up 
TTE did not demonstrate a wall motion abnormality. Ultimately, 
cardiology decided against stress test at this time. He was 
discharged on his home aspirin with the addition of atorvastatin 
and metoprolol. 

#Atrial fibrillation 
Noted to be in atrial fibrillation on ___, which rapidly 
resolved within hours to a day. This was a new diagnosis for the 
patient, felt to be ___ fluid shifts vs less likely cardiac 
ischemia. TSH normal. His home labetalol was switched to 
metoprolol and his heart rate and rhythm remained stable. Given 
a CHADSVASC of 1, anticoagulation was not started.  

#Access
Newly placed fistula with some ulceration. He should follow up 
with Dr. ___ in Nephrology to evaluate as an outpatient. 

CHRONIC ISSUES:
===============
#Hypertension
He was continued on his home nifedipine. He refused several 
daily doses of labetalol, stating the dose was too high. Given 
new episode of atrial fibrillation, possible cardiac disease, 
and normotensive pressures without labetalol, he was switched to 
metoprolol and remained stable on this regimen.  

#Normocytic anemia 
Hemoglobin stable from prior, felt to be ___ anemia of chronic 
disease ___ ESRD
and iron deficiency. He was continued on his on iron 
supplementation. 

#GERD
- Continued ranitidine 

#BPH
- Continued tamsulosin

TRANSITIONAL ISSUES:
====================
[ ] Follow up in ___ Spine Clinic on ___ and with your 
primary care provider ___ ___ weeks 
[ ] Monitor pain, titrate medications as necessary, consider 
down-titrating back to oxycodone 10 mg TID if pain improves and 
able 
[ ] Monitor mental status on several sedating medications - 
consider stopping tizanidine in the future once pain improves 
given unclear benefit
[ ] Blood pressure regimen changed, follow up BP and titrate as 
necessary 
[ ] Developed one episode of atrial fibrillation, if future 
episodes occur, consider further discussion regarding 
anticoagulation 
[ ] Ensure the patient is adhering to a 1.5-2L fluid restriction 

[ ] Recommend follow up Echocardiogram in ___ years

#CODE: Full (confirmed)
#CONTACT: ___ (Son) - no number on file 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 650 mg PO Q8H:PRN Pain - Mild 
2. Amitriptyline 75 mg PO QHS 
3. Aspirin 81 mg PO DAILY 
4. Atovaquone Suspension 1500 mg PO DAILY 
5. Calcium Carbonate 500 mg PO BID 
6. Cinacalcet 30 mg PO DAILY 
7. Ferrous GLUCONATE 324 mg PO BID 
8. Furosemide 80 mg PO 4X/WEEK (___) 
9. Labetalol 600 mg PO TID 
10. Magnesium Oxide 800 mg PO DAILY 
11. NIFEdipine (Extended Release) 30 mg PO DAILY 
12. OxyCODONE (Immediate Release) 10 mg PO Q8H:PRN Pain - Severe 

13. PredniSONE 5 mg PO EVERY OTHER DAY 
14. Ranitidine 150 mg PO DAILY 
15. Tacrolimus 3 mg PO Q12H 
16. Tamsulosin 0.4 mg PO QHS 
17. Vitamin D ___ UNIT PO 1X/WEEK (___) 

 
Discharge Medications:
1.  Atorvastatin 80 mg PO QPM  
2.  Lidocaine 5% Patch 1 PTCH TD QAM  
3.  Metoprolol Succinate XL 50 mg PO DAILY  
4.  Pregabalin 25 mg PO BID  
5.  Tizanidine 2 mg PO BID  
6.  Acetaminophen 1000 mg PO Q8H  
7.  OxyCODONE (Immediate Release) 10 mg PO Q6H:PRN Pain - 
Moderate 
RX *oxycodone 10 mg 1 tablet(s) by mouth every six (6) hours 
Disp #*15 Tablet Refills:*0 
8.  Amitriptyline 75 mg PO QHS  
9.  Aspirin 81 mg PO DAILY  
10.  Atovaquone Suspension 1500 mg PO DAILY  
11.  Calcium Carbonate 500 mg PO BID  
12.  Cinacalcet 30 mg PO DAILY  
13.  Ferrous GLUCONATE 324 mg PO BID  
14.  Furosemide 80 mg PO 4X/WEEK (___)  
15.  Magnesium Oxide 800 mg PO DAILY  
16.  NIFEdipine (Extended Release) 30 mg PO DAILY  
17.  PredniSONE 5 mg PO EVERY OTHER DAY  
18.  Ranitidine 150 mg PO DAILY  
19.  Tacrolimus 3 mg PO Q12H  
20.  Tamsulosin 0.4 mg PO QHS  
21.  Vitamin D ___ UNIT PO 1X/WEEK (___)  

 
Discharge Disposition:
Extended Care
 
Discharge Diagnosis:
#Primary:
Lower extremity radicular neuropathy 
Left flank/groin pain, difficult to control

#Secondary:
ESRD s/p renal transplant c/b rejection on hemodialysis 
NSTEMI
Paroxysmal atrial fibrillation 
Acute hypoxic respiratory failure
Pulmonary edema 
Hypertension
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure caring for you at ___ 
___!

Why you were admitted to the hospital:
- You were having pain in your side, back, hip and groin

What happened while you were here:
- Infectious work up was unremarkable - specifically you had no 
infection in your urine or testicles 
- There was concern for a kidney stone though imaging did not 
show this so it was felt to be less likely
- MRI of your back showed narrowing and pressure on the nerves, 
which was felt to be the cause of your pain 
- Orthopedic spine surgery and the pain service were consulted 
and assisted with pain management
- Additionally, you had significant fluid overload (fluid in 
your lungs), requiring oxygen and repeat dialysis sessions 
- Lab tests showed that there was additional stress on your 
heart. You should continue taking your heart medications as 
prescribed. 

What you should do once you leave the hospital:
- Please continue taking your medications as prescribed
- Please follow up at the appointments outlined below 

Sincerely,
Your ___ Care Team 
 
Followup Instructions:
___